US06812225B2
2-Morpholin-4-yl-5-nitro-benzonitrile
3-Cyano-4-fluoronitrobenzene (3.3 g, 19.9 mmol) was dissolved in ethyl acetate (10 mL). Morpholine (2.2 mL, 25 mmol), and N,N-diisopropylethylamine (3.5 mL, 20 mmol) were added and the mixture stirred overnight at room temperature. At 17 h, additional ethyl acetate (150 mL) was added and the combined mixture was washed with water (50 mL) and brine (50 mL), dried (Na2SO4), filtered and concentrated under vacuum. The residue was used without further purification.

reactant | 3-Cyano-4-fluoronitrobenzene | 19.9 mmol, 3.3 g | C(#N)C=1C=C(C=CC1F)[N+](=O)[O-] | C7H3FN2O2
reactant | Morpholine | 25 mmol, 2.2 mL | N1CCOCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 20 mmol, 3.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-Morpholin-4-yl-5-nitro-benzonitrile | N1(CCOCC1)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C11H11N3O3
